US05610192
Synthesis of 3-Hydroxy-2-naphthoic (2.4-dihydroxy-1-naphthylmethylene) hydrazide (III43A)
Following the general procedure of Example 1, condensation of 2, 4-dihydroxy-1-naphthaldehyde and 3-hydroxy-2-naphthoic hydrazide yielded a yellow crystal (83%) [recrystallized from DMSO/H2O (8:2, v/v)]: mp>280° C. (dec); 1H NMR d 12.42 (br s, 1 H), 11.65 (s, 1 H), 10.96 (br s, 1 H), 10.59 (s, 1 H), 8.99 (s, 1H), 8.07 (s, 1H), 7.77 (d, 1 H, J=8.4 Hz), 7.67 (d, 1 H, J=8.4 Hz), 7.48 (d, 1 H, J=8.1 Hz), 7.32 (d, 1H, J=8.4 Hz), 7.13 (t, 1H, J=7.5 Hz), 7.06 (t, 1 H, J=7.5 Hz), 6.91 (s, 1 H), 6.90 (m, 2 H); 13C NMR d 162.92, 160.47. 157.70, 154.20, 148.22, 135.97, 132.99, 130.33, 128.72, 128.33 (2 C), 126.84, 125.92, 123.91, 122.94, 122.55, 120.80, 120.32, 119.66, 110.70, 101.38, 100.49; HRMS Calcd for C22H16N2O4 :372.1110, found 372.1095; Anal. (C22H16N2O4 2DMSO H2O) C, H, N.

reactant | 2, 4-dihydroxy-1-naphthaldehyde | OC1=C(C2=CC=CC=C2C(=C1)O)C=O | C11H8O3
reactant | 3-hydroxy-2-naphthoic hydrazide | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN | C11H10N2O2
product | 3-Hydroxy-2-naphthoic (2.4-dihydroxy-1-naphthylmethylene) hydrazide | 83% | OC1=C(C2=CC=CC=C2C(=C1)O)C=NNC(=O)C1=CC2=CC=CC=C2C=C1O | C22H16N2O4
